US06727274B2
A solution of tert-butyl (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamate (1.74 g, 3.95 mmol) in DMF (13.0 mL) was added to a 0° C. suspension of 60% sodium hydride (0.38 g, 9.62 mmol) in DMF (3.0 mL) and stirred at room temperature for 1.1 hours. Methyl iodide (0.30 mL, 4.81 mmol) was added, and the reaction was stirred at room temperature for 2.0 hours. The reaction was cooled to 0° C., quenched with water and filtered. The filtrate was concentrated in vacuo, combined with the previously filtered solid and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to dryness, the residue was recrystallized from EtOAc/hexane to give 1.36 g (76%) of tert-butyl methyl[(3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]carbamate as a colorless solid: mp 181.4-183.2° C.; [α]D=+103° (c 1.02, DMSO); 1H NMR (400 MHz, DMSO-d6) δ 8.06, 7.93-7.91, 7.62-7.53, 4.22, 3.64, 2.96-2.92, 2.84-2.79, 1.99-1.94, 1.42; 13C NMR (100 MHz, DMSO-d6) δ 155.6, 142.8, 138.7, 138.0, 132.7, 130.5, 129.3, 126.7, 125.9, 119.1, 118.0, 110.0, 108.6, 78.5, 29.3, 28.5, 28.0, 26.4, 23.5, 21.2; IR (diffuse reflectance) 1684, 1481, 1448, 1398, 1378, 1364, 1357, 1304, 1184, 1149 (s), 1103, 732, 690, 622, 612 cm−1; HRMS (FAB) calcd for C25H30N2O4S+H 455.2004, found 455.2027; Anal. Calcd for C25H30N2O4S: C, 66.05; H, 6.65; N, 6.16. Found: C, 65.99; H, 6.66; N, 6.19.

reactant | tert-butyl (3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylcarbamate | 3.95 mmol, 1.74 g | CN1C2=CC=C(C=C2C=2C[C@@H](CCC12)NC(OC(C)(C)C)=O)S(=O)(=O)C1=CC=CC=C1 | C24H28N2O4S
reactant | sodium hydride | 9.62 mmol, 0.38 g | [H-].[Na+]
reactant | Methyl iodide | 4.81 mmol, 0.30 mL | CI | CH3I
solvent | DMF | 13.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | tert-butyl methyl[(3R)-9-methyl-6-(phenylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]carbamate | 1.36 g, 76% | CN(C(OC(C)(C)C)=O)[C@@H]1CCC=2N(C3=CC=C(C=C3C2C1)S(=O)(=O)C1=CC=CC=C1)C | C25H30N2O4S
